US06306791B2
To a solution of 67.8 mL MeMgBr (3M in ether) in 100 MnL Et2O was added a solution of 15 g (33.9 mmol) of 1,2-bis(4-phenyl-indanonyl)ethane, prepared as described in the above synthesis 8(a), in 150 mL THF, over a period of 45 minutes, at 0° C. The formation of a white/beige precipitate was observed. The reaction mixture was allowed to warm to 20° C. and was maintained under stirring for 2 hours. The reaction mixture was then poured into ice and acidified to pH 1, with 37% HCl, and finally extracted with Et2O. The organic layer was extracted with a saturated solution of NaCl and the solvent was removed in vacuum. The formed diol was dissolved in CH2Cl2 and p-toluene-sulfonic acid was added. The mixture was stirred overnight at 20° C. The solution was dried over MgSO4, filtered and the solvent was removed in vacuum, thus yielding 9.0 g of the ligand 1,2-bis(1-methyl-4-phenyl-2-indenyl)ethane (69% yield).

reactant | MeMgBr | 3M, 67.8 mL | C[Mg+].[Br-]
reactant | Et2O | CCOCC | C4H10O
reactant | 1,2-bis(4-phenyl-indanonyl)ethane | 33.9 mmol, 15 g | C1(=CC=CC=C1)C1=C2CC(C(C2=CC=C1)=O)CCC1C(C2=CC=CC(=C2C1)C1=CC=CC=C1)=O | C32H26O2
reactant | HCl | Cl | ClH
reactant | THF | 150 mL | C1CCOC1 | C4H8O
product | 1,2-bis(1-methyl-4-phenyl-2-indenyl)ethane | 69% yield | CC1C(=CC2=C(C=CC=C12)C1=CC=CC=C1)CCC=1C(C2=CC=CC(=C2C1)C1=CC=CC=C1)C | C34H30
